US05993780
b. 5-[N'-(2-Hydroxyethyl)-hydroxyacetamido]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide
5-[N'-(2-acetoxyethyl)-acetoxyacetamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (2.76 g, 2.96 mmol) was dissolved in methanol (4 ml) at room temperature. An aqueous solution of sodium hydroxide (2M, 11.1 ml) was slowly added with efficient stirring. After 30 minutes, the pH of the solution was adjusted to 6 by the addition of a strongly acidic ion exchange resin (Amberlyst 15). The resin was filtered off and the solution was evaporated to a crystalline residue. The product was purified by preparative HPLC. Yield: 1.80 g (84%).

reactant | 5-[N'-(2-acetoxyethyl)-acetoxyacetamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 2.96 mmol, 2.76 g | C(C)(=O)OCCN(C(COC(C)=O)=O)C=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C25H29I3N2O12
reactant | sodium hydroxide | 2M, 11.1 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 5-[N'-(2-Hydroxyethyl)-hydroxyacetamido]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide | OCCN(C(CO)=O)C=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)CO)I | C15H19I3N2O7
